US04282212
1-(N-Pivaloyl-carbamoyl)-2-cyanoaziridine.
A solution of 1.61 g. 2-cyanoaziridine in 30 ml. toluene is added dropwise at 20° to 30° C. to a solution of 3 g. trimethyl-acetyl isocyanate in 40 ml. anhydrous toluene and the reaction mixture then stirred for 1 hour at ambient temperature, whereafter the milky solution obtained is evaporated in a vacuum. The evaporation residue is rubbed with a glass rod until crystallization commences and the crystals obtained are triturated with diethyl ether. There is thus obtained 1.82 g. 1-(N-pivaloyl-carbamoyl)-2-cyanoaziridine which, after drying at 60° C. in a vacuum, melts at 136°-138° C.

reactant | 2-cyanoaziridine | C(#N)C1NC1 | C3H4N2
reactant | trimethyl-acetyl isocyanate | CC(C(=O)N=C=O)(C)C | C6H9NO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(N-Pivaloyl-carbamoyl)-2-cyanoaziridine | C(C(C)(C)C)(=O)NC(=O)N1C(C1)C#N | C9H13N3O2
